US07166623B2
N-(Cyclopropylmethyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(cyclopropylmethyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodomethane using method H.

reactant | N-(cyclopropylmethyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C | C21H21N3O2
reactant | iodomethane | IC | CH3I
product | N-(Cyclopropylmethyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C1(CC1)CN(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)C | C22H23N3O2
